US05981540
[8R-(4bS*,8α,8aβ,12b β)]-11-Diethylaminocarbonyl-10-methyl-7- (2-propenyl)-5,6,7,8,12,12b-hexahydro-4,8-methanobenzofuro[3,2-e]pyrrolo[2,3-g]isoquinoline-1,8a-(9H)-diol hydrochloride
1.0 g (2.75 mmoles) of naloxone hydrochloride, 2.15 g (8.25 mmoles) di N,N-diethyl-2-phenylhydrazono-3-oxobutyramide, 0.68 g (8.25 mmoles) of CH3COONa, 1.06 g (16.2 mmoles) of zinc dust and 15 ml of glacial acetic acid were treated as described in the Example 1. The residue was purified by flash chromatography (AcOEt/MeOH/conc. NH4OH 80:20:0.5), dissolved in MeOH and the solution brought to acidic pH with HCl/Et2O. The precipitate was filtered and recrystallized twice from EtOH to yield 0.95 g of the title compound.

reactant | naloxone hydrochloride | 2.75 mmoles, 1.0 g | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O.Cl
reactant | N,N-diethyl-2-phenylhydrazono-3-oxobutyramide | C(C)N(C(C(C(C)=O)=NNC1=CC=CC=C1)=O)CC | C14H19N3O2
reactant | CH3COONa | 8.25 mmoles, 0.68 g | CC(=O)O[Na]
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 16.2 mmoles, 1.06 g | [Zn] | Zn
product | 11-Diethylaminocarbonyl-10-methyl-7- (2-propenyl)-5,6,7,8,12,12b-hexahydro-4,8-methanobenzofuro[3,2-e]pyrrolo[2,3-g]isoquinoline-1,8a-(9H)-diol hydrochloride | 0.95 g | Cl.C(C)N(C(=O)C1=C(C2=C(C3C45CCN(C(C4(C2)O)CC2=CC=C(C(=C25)O3)O)CC=C)N1)C)CC | InChI=1S/C27H33N3O4.ClH/c1-5-11-30-12-10-26-20-16-8-9-18(31)23(20)34-24(26)22-17(14-27(26,33)19(30)13-16)15(4)21(28-22)25(32)29(6-2)7-3;/h5,8-9,19,24,28,31,33H,1,6-7,10-14H2,2-4H3;1H
